US07122543B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]-4-trifluoromethyl-aniline
4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid (16 mg, 0.0408 mmol) was dissolved in methylene chloride (3 ml), then 4-trifluoromethylaniline (13 mg, 0.0807 mmol), triethylamine (8.2 mg, 0.0811 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (21 mg, 0.1242 mmol) were added thereto and the mixture was stirred for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (hexane:ethyl acetate=1:1) to give the title compound (8 mg, 0.0149 mmol, 37%).

reactant | 4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid | 0.0408 mmol, 16 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1)C)=O | C23H20O6
reactant | 4-trifluoromethylaniline | 0.0807 mmol, 13 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 0.0811 mmol, 8.2 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.1242 mmol, 21 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]-4-trifluoromethyl-aniline | 0.0149 mmol, 8 mg, 37% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)C(F)(F)F)C=C1)C1=CC=CC=C1)C)=O | C30H24F3NO5
